US08865696B2
To examine the tyramine to dopamine step, dopamine (DA) levels in ganglia and hemolymph were examined before and after tyramine addition followed by CYP2D6 inhibition by quinidine. Tyramine injection significantly increased ganglionic (4.98±0.27 μg/g to 9.17±1.21 μg/g wet weight; P<0.01) and hemolymph (10.13±1.24 μg/mL to 16.47±1.28 μg/mL, P<0.05) DA levels (FIGS. 19 and 20). The ganglionic and hemolymph DA level increases were blocked by quinidine exposure, demonstrating that the CYP2D6 enzyme was mediating this step. Ganglia were also exposed to THP, reticuline, DA, or codeine. Each resulted in significantly enhanced morphine levels, a phenomenon that was also significantly blocked by quinidine exposure, again demonstrating a role for CYP2D6 in the second part of the morphine biosynthetic pathway (FIGS. 15 and 20).

reactant | tyramine | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | dopamine | NCCC1=CC(O)=C(O)C=C1 | C8H11NO2
reactant | quinidine | COC=1C=CC2=C(C1)C(=CC=N2)[C@@H]([C@H]3CC4CCN3C[C@@H]4C=C)O | C20H24N2O2
reactant | reticuline | CN1CCC=2C=C(C(=CC2C1CC=3C=CC(=C(C3)O)OC)O)OC | C19H23NO4
reactant | codeine | CN1CC[C@]23C4=C5C=CC(=C4O[C@H]2[C@H](C=C[C@H]3[C@H]1C5)O)OC | C18H21NO3
product | morphine | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
